* c:\users\aditya\esim-workspace\mpy100\mpy100.cir

.include MPY_100.sub
v1 net-_x1-pad10_ gnd  dc 15
v4 net-_x1-pad3_ gnd  dc -15
r2  net-_r1-pad2_ vout 70k
r1  gnd net-_r1-pad2_ 10k
v2  v1 gnd sine(0 2 50 0 0)
v3  v2 gnd sine(0 4 50 0 0)
* u1  vout plot_v1
* u2  v1 plot_v1
* u3  v2 plot_v1
v5  z2 gnd sine(0 0 0 0 0)
* u4  z2 plot_v1
x1 net-_r1-pad2_ vout net-_x1-pad3_ v1 gnd z2 gnd gnd v2 net-_x1-pad10_ MPY_100
.tran 0.01e-03 40e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(v1)
plot v(v2)
plot v(z2)
.endc
.end
